US04032525
52.5 G. of 10,11-dihydro-2-nitro-dibenz[b,f]oxepin-10-one are suspended in 900 ml. of ethyl acetate and 450 ml. of ethanol and hydrogenated in the presence of 300 mg. of platinum oxide at room temperature and normal pressure. The catalyst is removed by filtration, the filtrate evaporated in vacuo. The residue is crystallized from benzene/hexane, and there is obtained 2-amino-10,11-dihydro-dibenz[b,f]oxepin-10-one having a melting point of 116°-117° C.

reactant | 10,11-dihydro-2-nitro-dibenz[b,f]oxepin-10-one | [N+](=O)([O-])C1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-10,11-dihydro-dibenz[b,f]oxepin-10-one | NC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H11NO2
